US08202873B2
3′-(4-fluoro-phenyl)-4-(1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride salt
Form the free base of 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride by SCX-2® chromatography washing with methanol then eluting with 2M ammonia in methanol. Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.200 g, 0.774 mmol) in DCE (5 mL). Add 1-phenyl-1H-pyrazole-4-carbaldehyde (0.200 g, 1.16 mmol, 1.5 eq.). Stir at room temperature for 20-30 min. Add sodium triacetoxyborohydride (0.33 g, 1.55 mmol, 2 eq.) followed by acetic acid (0.048 g, 0.81 mmol, 1.05 eq.). Stir the reaction mixture at room temperature for 48 hr. Purify by SCX cartridge, followed by reverse phase chromatography to obtain the freebase of the title compound (0.360 g, 0.87 mmol, 100% yield). MS (ES): m/z=415.3[M+H]. Dissolve in methanol (5 mL). Add ammonium chloride (0.047 g, 0.87 mmol, 1 eq.). Stir the reaction mixture at room temperature for 2 hr. and concentrate to give the title compound (0.327 g, 83% yield for salt formation). MS (ES): m/z=415.3[M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.774 mmol, 0.200 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-phenyl-1H-pyrazole-4-carbaldehyde | 1.16 mmol, 0.200 g, 1.5 eq. | C1(=CC=CC=C1)N1N=CC(=C1)C=O | C10H8N2O
reactant | sodium triacetoxyborohydride | 1.55 mmol, 0.33 g, 2 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.81 mmol, 0.048 g, 1.05 eq. | C(C)(=O)O | C2H4O2
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3′-(4-fluoro-phenyl)-4-(1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride salt | 0.87 mmol, 0.360 g, 100% yield | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C1=CC=CC=C1 | InChI=1S/C24H23FN6.ClH/c25-21-8-6-20(7-9-21)23-24(27-11-10-26-23)30-14-12-29(13-15-30)17-19-16-28-31(18-19)22-4-2-1-3-5-22;/h1-11,16,18H,12-15,17H2;1H
